US04061753
A suspension of 3.60 g (0.02 mole) of theophylline and 1.38 g (0.01 mole) of K2CO3 in 75 ml of acetone was refluxed overnight and then allowed to react at reflux with 3.00 g (0.02 mole) of pivaloxymethyl chloride for 2 days. The suspension was filtered and the residue was washed with acetone (200 ml). The combined filtrate and wash was concentrated in vacuo and the residue was extracted with boiling heptane (200 ml). The heptane solution was cooled in the refrigerator for 0.5 hr then filtered. The residue was dried in vacuo to give 1.50 g (mp 108°-109.5°) of 7-pivaloxymethyl theophylline.

reactant | theophylline | 0.02 mole, 3.60 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | K2CO3 | 0.01 mole, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pivaloxymethyl chloride | 0.02 mole, 3.00 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 7-pivaloxymethyl theophylline | 1.50 g | C(C(C)(C)C)(=O)OCN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C13H18N4O4
